US04282170
9-Carbamoyl-9-(2-cyanoethyl)fluorene
One hundred g. of 9-carbamoylfluorene was slurried in 3375 ml. of tetrahydrofuran in a 5-liter flask. The mixture was heated to 45° with stirring, and to it was added 10 ml. of Triton B. The mixture was stirred for 15 minutes at constant temperature, and 26.2 g. of acrylonitrile was then added in one portion. The mixture was stirred at the reflux temperature for 3 hours, and was then allowed to cool to room temperature. The mixture was then concentrated under vacuum to a solid, which was purified as described in Example 1 above to obtain 110 g. of product, analytically identical to the product of Example 1.

reactant | 9-carbamoylfluorene | C(N)(=O)C1C2=CC=CC=C2C=2C=CC=CC12 | C14H11NO
reactant | acrylonitrile | C(C=C)#N | C3H3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 9-Carbamoyl-9-(2-cyanoethyl)fluorene | C(N)(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCC#N | C17H14N2O
